Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Bleeding
 
Major Surgical or Invasive Procedure:
Classical Cesarean Section
 
History of Present Illness:
A ___, G3, P1, presented at 23wks 4days to ob triage 
with a diamniotic-dichorionic twins stating taht she was lying 
on her couch and had an episode of vaginal bleeding without 
pain.  Bleeding was equivalent to a period.  She was feeling 
fetal movement x2 with no contractions.  

 
Past Medical History:
none
 
Social History:
No T/E/D 
 
Physical Exam:
97.5  112/58  76  18
NAD
Abd: soft, ATT, FF below umbilicus
Ext: no calf tenderness
Incision: C/D/I
 
Pertinent Results:
___ 10:44AM BLOOD WBC-8.5# RBC-3.53* Hgb-10.4* Hct-30.6* 
MCV-87 MCH-29.6 MCHC-34.2 RDW-14.0 Plt ___
___ 10:57AM BLOOD WBC-17.9* RBC-3.62* Hgb-10.8* Hct-31.9* 
MCV-88 MCH-29.9 MCHC-33.9 RDW-14.0 Plt ___
___ 06:05AM BLOOD WBC-15.4* RBC-3.50* Hgb-10.5* Hct-30.5* 
MCV-87 MCH-30.0 MCHC-34.5 RDW-14.0 Plt ___
___ 11:35PM BLOOD WBC-14.8* RBC-3.02* Hgb-8.9* Hct-25.5* 
MCV-85 MCH-29.5 MCHC-34.9 RDW-14.4 Plt ___
___ 09:45PM BLOOD WBC-14.9* RBC-3.21* Hgb-9.4* Hct-27.9* 
MCV-87 MCH-29.3 MCHC-33.7 RDW-14.1 Plt ___
___ 07:45AM BLOOD WBC-15.4*# RBC-3.54* Hgb-10.4* Hct-31.5* 
MCV-89 MCH-29.4 MCHC-33.1 RDW-13.8 Plt ___
___ 08:38AM BLOOD WBC-10.0 RBC-3.58* Hgb-10.5* Hct-30.1* 
MCV-84 MCH-29.4 MCHC-35.0 RDW-14.0 Plt ___
___ 10:57PM BLOOD Neuts-63.0 ___ Monos-4.5 Eos-2.0 
Baso-0.3
___ 10:44AM BLOOD Plt ___
___ 10:57AM BLOOD ___ PTT-22.1 ___
___ 06:05AM BLOOD ___ PTT-23.1 ___
___ 11:35PM BLOOD ___ PTT-22.3 ___
___ 09:45PM BLOOD ___ PTT-32.8 ___
___ 07:45AM BLOOD ___ PTT-22.2 ___
___ 08:38AM BLOOD ___ PTT-21.8* ___
___ 10:57PM BLOOD ___ PTT-22.0 ___
___ 10:57AM BLOOD ___ 06:05AM BLOOD ___ 11:35PM BLOOD ___ 07:45AM BLOOD ___
___ 10:57PM BLOOD ___
___ 10:57AM BLOOD Creat-0.7
___ 10:57AM BLOOD ALT-25
___ 10:57AM BLOOD UricAcd-3.2
___ 08:38AM BLOOD HBsAg-NEGATIVE
 
Brief Hospital Course:
Briefly this is a ___ G3, P1->3 admitted to antepartum service 
on ___ at ___ with di/di twins, known placenta previa, and 
vaginal bleeding.  /1 ___ di/di twins with known previa, now 
with VB.
.
Patient remained hemodynamically stable and was Rh pos therefore 
she did not require rhogam. Patient admitted to antepartum 
service for monitoring.  On ___ patient passed a large clot and 
had increased bleeding.  Patient was transferred back to labor 
and delivery. Patient's bleeding stopped and she remained 
hemodynamically stable and was therefore transferred back to the 
antepartum floor on the evening of ___.  Patient had reassuring 
BPPs x2 that day as well.  On ___ patient had another episode 
of passage of clots.  Sterile speculum exam at that time 
demonstrated 3-4cm of dilation with bulging bag of membranes.  
This coupled with contractions led to the diagnosis of preterm 
labor in addition to previa.  Patient started on Magnesium.  BMZ 
was initiated.  Patient continued to feeling increasing pain 
from contractions.  On ___ patient's blood pressure was 
slightly elevated and PEC labs were checked which were all WNL.  
SVE progressed to 8cm with BBOW despite magnesium for tocolysis. 
 Descision was made to proceed with classical c-section.  Prior 
to c/s, patient hct was noted to be 25.  She was transfused 
2UPRBCs with an appropriate increase in her HCT to 30.  Patient 
tolerated the procedure well.  Patient's post-operative course 
was complicated by elevated blood pressures immediately post 
partum with normal pre-eclampsia labs.  Pt never required any 
anti-hypertensive medications.  Patient was discharged to home 
on  POD#3 in good condition.
 
Medications on Admission:
PNV
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.
Disp:*40 Capsule(s)* Refills:*0*
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for Pain.
Disp:*40 Tablet(s)* Refills:*0*
3. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*60 Tablet(s)* Refills:*0*
4. Breast Pump     Device Sig: One (1)  Miscellaneous once a 
day: Device for prematurity in NICU.
Disp:*1 device* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p Classical c-section for Preterm labor of twins

 
Discharge Condition:
good

 
Discharge Instructions:
Please call if you have fever > 100.4, drainage or redness of 
incision, vomiting or any other concerns
 
Followup Instructions:
___